US06727264B1
N-(3-{1-[5-(4-BROMOPHENOXY)-5-(4-FLUOROPHENYL)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 4-bromophenol and N-(3-{1-[5-(4-fluorophenyl)-5-hydroxypentyl]-4-piperidinyl}phenyl)-2-methylpropanamide: 1H NMR (400 MHz, CDCl3), HCl salt δ 7.94 (s, br, 1H), 7.68-6.64 (m, 12H), 5.12-5.04 (m, 1H), 3.68-3.52 (m, br, 2H), 3.01-2.82 (br, 2H), 2.78-2.58 (m, br, 4H), 2.57-2.38 (m, br, 2H), 2.05-1.80 (m, br, 6H), 1.64-1.38 (m, br, 2H), 1.25 (d, 6H, J=7.2 Hz); ESMS m/e: 581.0 (M+H)+.

reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | N-(3-{1-[5-(4-fluorophenyl)-5-hydroxypentyl]-4-piperidinyl}phenyl)-2-methylpropanamide | FC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C26H35FN2O2
reactant | HCl | Cl | ClH
product | N-(3-{1-[5-(4-BROMOPHENOXY)-5-(4-FLUOROPHENYL)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | BrC1=CC=C(OC(CCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=C(C=C2)F)C=C1 | C32H38BrFN2O2
